US07700641B2
Synthesis of 1′-(4-methoxybenzyl)-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.21, and making non-critical variations using 5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one to replace 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one, and 1-(chloromethyl)-4-methoxybenzene to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (56%) as a white solid: mp 120-121° C.; MS (ES+) m/z 400.2 (M+1).

reactant | 5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)C1=C(OC2)C=C2OCCC2=C1)=O | C17H13NO3
reactant | 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | CC1(C=2C(OC1)=CC=1OCC3(C(NC4=CC=CC=C34)=O)C1C2)C | C19H17NO3
reactant | 1-(chloromethyl)-4-methoxybenzene | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 1′-(4-methoxybenzyl)-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | COC1=CC=C(CN2C(C3(C4=CC=CC=C24)C2=C(OC3)C=C3OCCC3=C2)=O)C=C1 | C25H21NO4
